US04604407
3-[[(1-Hexenyl)carbonyl]ethoxyamino]pentanoic acid
Following the procedure of Example 12 except substituting 1-hexenylcarboxylic acid for 1-decenylcarboxylic acid, ethoxylamine hydrochloride for methoxylamine hydrochloride and ethyl-3 iodovalerate for ethyl-4-iodobutyrate, and eliminating the addition of dicyclohexylamine, the title compound is obtained.

reactant | 1-decenylcarboxylic acid | C(=CCCCCCCCC)C(=O)O | C11H20O2
reactant | ethoxylamine hydrochloride | Cl.O(CC)N
reactant | methoxylamine hydrochloride | Cl.O(C)N
reactant | ethyl-3 iodovalerate | C(C)OC(CC(CC)I)=O | C7H13IO2
reactant | ethyl-4-iodobutyrate | C(C)OC(CCCI)=O | C6H11IO2
reactant | dicyclohexylamine | C1(CCCCC1)NC1CCCCC1 | C12H23N
product | 3-[[(1-Hexenyl)carbonyl]ethoxyamino]pentanoic acid | C(=CCCCC)C(=O)CCONC(CC(=O)O)CC | C14H25NO4
